US06921763B2
To a solution of rac-3-iodo-1-tetrahydro-1H-3-pyrrolyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine monohydrochloride (0.367 g, 1.00 mmol) in dichloromethane (10 mL) was added 2-(dimethylamino)acetic acid (0.134 g, 1.30 mmol), 1-hydroxy-7-azabenzotriazole (0.150 g, 1.10 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.249 g, 1.30 mmol), and diisopropylethyl amine (0.65 g, 0.87 mL, 5.0 mmol). The reaction mixture stirred at room temperature for 18 h and was then poured into water (10 mL). The organic phase was separated and washed with brine (10 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated to afford rac-1-[3-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)tetrahydro-1H-1-pyrrolyl]-2-(dimethylamino)-1-ethanone as a yellow-orange solid (0.278 g, 67%) which was used in subsequent reactions without further purification. RP-HPLC Rt 4.881 min, 80% purity (5% to 85% acetonitrile/0.1M aqueous ammonium acetate, buffered to pH 4.5, over 20 min at 1 mL/min; λ=254 mn; Deltapak C18, 300 Å, 5 μm, 150×3.9 mm column); m/z 416 (MH+).

reactant | rac-3-iodo-1-tetrahydro-1H-3-pyrrolyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine monohydrochloride | 1.00 mmol, 0.367 g | Cl.IC1=NN(C2=NC=NC(=C21)N)C2CNCC2
reactant | 2-(dimethylamino)acetic acid | 1.30 mmol, 0.134 g | CN(CC(=O)O)C | C4H9NO2
reactant | 1-hydroxy-7-azabenzotriazole | 1.10 mmol, 0.150 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.30 mmol, 0.249 g | Cl.CN(CCCN=C=NCC)C
reactant | diisopropylethyl amine | 5.0 mmol, 0.87 mL, 0.65 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | rac-1-[3-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)tetrahydro-1H-1-pyrrolyl]-2-(dimethylamino)-1-ethanone | 0.278 g, 67% | NC1=C2C(=NC=N1)N(N=C2I)C2CN(CC2)C(CN(C)C)=O | C13H18IN7O
